US07049310B2
f) 3-Bromo-5,6,7,9-tetrahydro-pyrido[2,3-b]azepin-8-one
A 10% solution of bromine (0.57 mL, 11.1 mmole) in CH2Cl2 was added dropwise over 1 hr to a solution of 5,6,7,9-tetrahydro-pyrido[2,3-b]azepin-8-one (1.20 g, 7.4 mmole) in CH2Cl2 at RT. The mixture was stirred at RT overnight, then was concentrated in vacuo. The residue was diluted with 10% Na2CO3 and extracted with EtOAc. The combined organics were dried over Na2SO4 and concentrated. Flash chromatography on silica gel (EtOAc) gave the title compound (1.00 g, 56%) as a light yellow solid after drying in vacuo: MS (ES) m/e 241/243.

reactant | bromine | 11.1 mmole, 0.57 mL | BrBr | Br2
reactant | 5,6,7,9-tetrahydro-pyrido[2,3-b]azepin-8-one | 7.4 mmole, 1.20 g | N1=CC=CC2=C1NC(CCC2)=O | C9H10N2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-Bromo-5,6,7,9-tetrahydro-pyrido[2,3-b]azepin-8-one | 1.00 g, 56% | BrC1=CC2=C(NC(CCC2)=O)N=C1 | C9H9BrN2O
